* File: nor2_dyn.pex.netlist.pex
* Created: Sun Feb 20 17:09:52 2022
* Program "Calibre xRC"
* Version "v2012.2_36.25"
* Nominal Temperature: 27C
* Circuit Temperature: 27C
* 
.subckt PM_NOR2_DYN%CLK 3 7 23
c1 23 0 0.06903f
c2 16 0 0.0258f
c3 7 0 0.0472983f
c4 3 0 0.0679383f
r5 16 20 6.88245
r6 16 19 6.88502
r7 12 16 9.6
r8 12 23 4.29
r9 7 20 86.625
r10 3 19 132.825
.ends

.subckt PM_NOR2_DYN%B 3 20
c1 20 0 0.07965f
c2 16 0 0.0301f
c3 3 0 0.0369783f
r4 12 16 5.39
r5 8 12 9.6
r6 8 20 4.29
r7 1 16 3.88059
r8 1 3 63.525
.ends

.subckt PM_NOR2_DYN%Y 3 20
c1 20 0 0.07965f
c2 16 0 0.0301f
c3 3 0 0.0472983f
r4 12 16 5.39
r5 8 12 9.6
r6 8 20 4.29
r7 1 16 3.88059
r8 1 3 86.625
.ends

.subckt PM_NOR2_DYN%X 8 16 20 23 24 26 27 31
c6 31 0 0.07434f
c7 20 0 0.00992124f
c8 16 0 0.0199931f
c9 12 0 0.0328588f
c10 9 0 0.00496f
c11 8 0 0.00867752f
c12 5 0 0.0111588f
r13 20 31 4.29
r14 17 20 0.072
r15 15 17 0.0134198
r16 15 16 0.43
r17 13 26 5.30267
r18 13 27 5.30267
r19 12 13 10.4
r20 10 17 0.0134198
r21 10 12 0.48998
r22 8 16 0.0446983
r23 8 9 0.12
r24 6 23 6.02576
r25 6 24 6.02576
r26 5 6 10.8
r27 3 9 0.0446983
r28 3 5 0.14
.ends

.subckt PM_NOR2_DYN%A 3 20
c1 20 0 0.07965f
c2 12 0 0.0301f
c3 3 0 0.0369783f
r4 12 14 5.39
r5 8 12 9.6
r6 8 20 4.29
r7 1 14 3.88059
r8 1 3 63.525
.ends

.subckt PM_NOR2_DYN%GND 1 2 6 8 21 26 40
c6 26 0 0.00619876f
c7 24 0 0.00496f
c8 19 0 0.02232f
c9 17 0 0.0483575f
c10 11 0 0.0867975f
c11 8 0 0.0481566f
c12 4 0 0.0343966f
c13 3 0 0.0215f
c14 2 0 0.0154766f
r15 26 27 9.6
r16 24 26 0.19
r17 19 33 0.01999
r18 19 21 0.13
r19 18 40 5.2204
r20 17 18 10.4
r21 15 24 0.0446983
r22 15 17 0.49998
r23 11 33 0.025
r24 11 33 0.031483
r25 11 21 0.045
r26 11 17 0.28002
r27 7 8 107.8
r28 4 8 4.81186
r29 4 6 5.775
r30 3 27 6.71385
r31 2 7 4.30221
r32 2 3 26.95
r33 1 33 10.8
.ends

.subckt PM_NOR2_DYN%7 6 13 14 16
c2 10 0 0.00991876f
c3 7 0 0.00496f
c4 6 0 0.0247975f
c5 3 0 0.00991876f
r6 11 16 5.22156
r7 10 11 10.4
r8 8 10 0.12002
r9 6 8 0.0446983
r10 6 7 0.32
r11 4 13 5.30267
r12 4 14 5.30267
r13 3 4 10.4
r14 1 7 0.0446983
r15 1 3 0.12002
.ends

.subckt PM_NOR2_DYN%VDD 1 19 36 38
c0 22 0 0.00991876f
c1 16 0 0.02232f
c2 15 0 0.059515f
c3 12 0 0.00991876f
c4 5 0 0.02728f
r5 23 38 5.93359
r6 22 23 10.8
r7 16 29 0.01999
r8 15 32 0.02
r9 15 19 0.11
r10 13 36 5.93228
r11 12 13 10.8
r12 5 32 0.035
r13 5 32 0.031483
r14 5 29 0.025
r15 5 29 0.031483
r16 5 22 0.12
r17 5 19 0.01
r18 5 16 0.12
r19 5 12 0.12
r20 1 32 10.4
r21 1 29 10.4
.ends

.subckt PM_NOR2_DYN%9 1 2
r0 1 2 7.5
.ends

